US05532236
d. 1 -Benzyloxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxaline-2,3(1H,4H)-dione
To a solution of 5.3 g (~16.3 mmol) of 1-hydroxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxaline-2,3(1H,4H)-dione in a mixture of 80 ml ethanol and 80 ml 1M potassium dihydrogen phosphate buffer pH 7.4 was added 2.1 ml (17.7 mmol) benzylbromide. Stirring was continued at 25° C. for 1 h. The precipitate was filtered off and washed with water and a little ice-cooled ethanol to give the title compound (5.2 g; 78%). M.p. 156° C. (decomp.).

reactant | 1-hydroxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxaline-2,3(1H,4H)-dione | ~16.3 mmol, 5.3 g | ON1C(C(NC2=CC(=C(C=C12)C(F)(F)F)N1C(=NC=C1)C)=O)=O | C13H9F3N4O3
reactant | benzylbromide | 17.7 mmol, 2.1 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | potassium dihydrogen phosphate | 1M, 80 ml, pH 7.4 | P(=O)(O)(O)[O-].[K+]
product | 1 -Benzyloxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 5.2 g, 78% | C(C1=CC=CC=C1)ON1C(C(NC2=CC(=C(C=C12)C(F)(F)F)N1C(=NC=C1)C)=O)=O | C20H15F3N4O3
